US05210211
4-(2,5-Dimethyl-1H-pyrrol-1-yl)-2-propyl-1-[[2'-(1H-tetrazol-5-yl)-1,1'-biphenyl-4-yl]methyl]-1H-imidazole-5-carboxaldehyde
Prepared from 4-(2,5-dimethyl-1H-pyrrol-1-yl)-2-propyl-1-[[2'-(N-triphenylmethyl-tetrazol-5-yl)-1,1'-biphenyl-4-yl]methyl]-1H-imidazole-5-carboxaldehyde according to the procedure of Example 52. MS (EI, CH4 +NH3) 465 (M+).

reactant | 4-(2,5-dimethyl-1H-pyrrol-1-yl)-2-propyl-1-[[2'-(N-triphenylmethyl-tetrazol-5-yl)-1,1'-biphenyl-4-yl]methyl]-1H-imidazole-5-carboxaldehyde | CC=1N(C(=CC1)C)C=1N=C(N(C1C=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C46H41N7O
reactant | CH4 NH3 | C.N
product | 4-(2,5-Dimethyl-1H-pyrrol-1-yl)-2-propyl-1-[[2'-(1H-tetrazol-5-yl)-1,1'-biphenyl-4-yl]methyl]-1H-imidazole-5-carboxaldehyde | CC=1N(C(=CC1)C)C=1N=C(N(C1C=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)CCC | C27H27N7O
